US08633186B2
2-Nitro-6-(tetrahydrofuran-3-yloxy)benzonitrile
Prepared as in Example 166d from 2,6-dinitrobenzonitrile and tetrahydrofuran-3-ol in 50% yield as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 2.04 (m, 1H), 2.32 (m, 1H), 3.81 (td, J=8.3, 4.6 Hz, 1H), 3.89 (m, 2H), 3.98 (dd, J=10.8, 4.5 Hz, 1H), 5.36 (m, 1H), 7.75 (dd, J=8.1, 1.5 Hz, 1H), 7.91 (t, J=8.2 Hz, 1H), 7.95 (dd, J=8.2, 1.6 Hz, 1H).

reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | tetrahydrofuran-3-ol | O1CC(CC1)O | C4H8O2
product | 2-Nitro-6-(tetrahydrofuran-3-yloxy)benzonitrile | 50% yield | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)OC1COCC1 | C11H10N2O4
